US04948794
A mixture of 2.0 g (7.3 mmol) N-benzyl-2,4-dinitroaniline, 1.50 g (28.0 mmol) ammonium chloride, 6.7 g (28.0 mmol) sodium sulfide hydrate and 100 ml methanol was refluxed for 3/4h. After cooling to 25° C. the mixture was filtered and evaporated. The product was stirred with water to give 1.3 g (73%) N-benzyl-2-amino-4-nitroaniline. 1H-NMR (CDCl3): 8.1-6.5 (8H, m), 4.9-4.3 (3H,m), 3.4 (2H, broad s).

reactant | N-benzyl-2,4-dinitroaniline | 7.3 mmol, 2.0 g | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H11N3O4
reactant | ammonium chloride | 28.0 mmol, 1.50 g | [Cl-].[NH4+]
reactant | sodium sulfide hydrate | 28.0 mmol, 6.7 g | O.[S-2].[Na+].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N-benzyl-2-amino-4-nitroaniline | 1.3 g, 73% | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])N | C13H13N3O2
